US04476131
C. 2-(Tetrahydrofuran-2-yl)acetic acid
A solution of 90 g. (0.81 mole) 2-cyanomethyltetrahydrofuran, 130 g. (3.2 mole) sodium hydroxide, 250 ml. methanol and 300 ml. water was heated at reflux for 20 hours. The reaction mixture was evaporated in vacuo, the residue taken up in chloroform and acidified to pH 5 with 6N hydrochloric acid. The organic layer was separated, the aqueous phase extracted with chloroform, the combined extracts dried (MgSO4) and the solvent evaporated to give 62 g. of crude acid. Distillation afforded 52.6 g. of product, B.P. 110° C. (2 mm.). 1H--NMR (CDCl3) ppm (delta): 2.50 (d, 2H, CH2COOH), 11.10 (s, 1H, COOH).

reactant | 2-cyanomethyltetrahydrofuran | 0.81 mole | C(#N)CC1OCCC1 | C6H9NO
reactant | sodium hydroxide | 3.2 mole | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-(Tetrahydrofuran-2-yl)acetic acid | O1C(CCC1)CC(=O)O | C6H10O3
